US04258187
A stirred mixture of 28.28 g (0.085 mole) of 6-bromo-3,4-dihydro-4-hydroxy-3-methyl-4-phenyl-2(1H)-quinazolinone and 17.6 g (0.25 mole) of hydroxylamine hydrochloride in 425 ml of ethanol was refluxed for 192 hours and then cooled. The solid portion of the reaction mixture was collected on a filter, washed with ethanol, and dried in air to give 20.92 g (0.066 mole, 78%) of 6-bromo-4-phenyl-2(1H)-quinazolinone 3-oxide as light yellow crystals: mp 275°-276°.

reactant | 6-bromo-3,4-dihydro-4-hydroxy-3-methyl-4-phenyl-2(1H)-quinazolinone | 0.085 mole, 28.28 g | BrC=1C=C2C(N(C(NC2=CC1)=O)C)(C1=CC=CC=C1)O | C15H13BrN2O2
reactant | hydroxylamine hydrochloride | 0.25 mole, 17.6 g | Cl.NO
solvent | ethanol | 425 ml | C(C)O | C2H6O
product | 6-bromo-4-phenyl-2(1H)-quinazolinone 3-oxide | 0.066 mole, 20.92 g, 78% | BrC=1C=C2C(=[N+](C(NC2=CC1)=O)[O-])C1=CC=CC=C1 | C14H9BrN2O2
